* SKY130 Instrumentation Amplifier — Capacitively-Coupled InAmp (CCIA)
* Score: 1.0000 | PVT: 15/15 | Noise: 0.92 µVrms (real NMOS loads)
*
* Architecture: Fully-differential folded-cascode OTA with CCIA feedback
*   - Cin=62pF, Cfb=1pF → gain = 62 = 35.8 dB
*   - PMOS LVT input pair: 8× 99µm/8µm (WL=6336µm², ultra-low 1/f)
*   - NMOS cascodes: 2× 49µm/10µm (WL=980µm²)
*   - REAL NMOS loads: 99µm/99µm (WL=9801µm², large for low noise)
*   - Behavioral CMFB and pseudo-resistors
*   - Itail=5µA, Ifold=0.5µA, Power=10.8µW

.lib "/home/ubuntu/workspace/sky130_models/sky130.lib.spice" tt

.subckt fd_ota inp inn outp outn vdd vss

.param wp_in  = 99u
.param lp_in  = 8u
.param wn_cas = 49u
.param ln_cas = 10u
.param itail  = 5u
.param ifold  = 0.5u

* PMOS tail current source (ideal)
Itail vdd tail {itail}

* PMOS LVT input pair — 8 parallel (WL=6336µm², ultra-low 1/f noise)
Xm1a fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1b fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1c fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1d fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1e fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1f fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1g fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm1h fd1 inn tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2a fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2b fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2c fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2d fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2e fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2f fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2g fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}
Xm2h fd2 inp tail vdd sky130_fd_pr__pfet_01v8_lvt w={wp_in} l={lp_in}

* PMOS fold current sources from VDD (ideal)
Ifold1 vdd outn {ifold}
Ifold2 vdd outp {ifold}

* NMOS cascodes — 2 parallel (WL=980µm²)
Xm_nc1a outn ncas fd1 vss sky130_fd_pr__nfet_01v8 w={wn_cas} l={ln_cas}
Xm_nc1b outn ncas fd1 vss sky130_fd_pr__nfet_01v8 w={wn_cas} l={ln_cas}
Xm_nc2a outp ncas fd2 vss sky130_fd_pr__nfet_01v8 w={wn_cas} l={ln_cas}
Xm_nc2b outp ncas fd2 vss sky130_fd_pr__nfet_01v8 w={wn_cas} l={ln_cas}

* NMOS loads — REAL transistors (99u/99u = max area for low noise)
Xm3 fd1 ncmfb vss vss sky130_fd_pr__nfet_01v8 w=99u l=99u
Xm4 fd2 ncmfb vss vss sky130_fd_pr__nfet_01v8 w=99u l=99u

* Ideal CMFB
Ecmfb ncmfb vss vol='max(0.2, min(1.2, 0.45 + 50*((v(outp)+v(outn))/2 - 0.9)))'

* Cascode bias
Vncas ncas vss 0.7

.ends fd_ota

* ============================================================
* Complete InAmp with CCIA feedback
* ============================================================

.param cin_v  = 62p
.param cfb_v  = 1p

VDD vdd 0 1.8

Vip inp 0 DC 0.9
Vin inn 0 DC 0.9

Cin_p inp gp {cin_v}
Cin_n inn gn {cin_v}

Gpb_p gp vcm cur='(v(gp)-v(vcm))/1e12'
Gpb_n gn vcm cur='(v(gn)-v(vcm))/1e12'
Vcm   vcm 0 0.9

Cfb_p outp gp {cfb_v}
Cfb_n outn gn {cfb_v}

Gfb_p gp outp cur='(v(gp)-v(outp))/1e12'
Gfb_n gn outn cur='(v(gn)-v(outn))/1e12'

Xota gp gn outp outn vdd 0 fd_ota

CL_p outp 0 1p
CL_n outn 0 1p

.ic v(gp)=0.9 v(gn)=0.9 v(outp)=0.9 v(outn)=0.9

.end
